US04978753
In the manner given in Example 1, 2-amino-8-ethylthio-5-(m-fluorophenyl)-3H-1,4-benzodiazepine, ethyl propiolate and ethanol were refluxed. The mixture was chromatographed to give 10-ethylthio-7-(m-fluorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one.

reactant | 2-amino-8-ethylthio-5-(m-fluorophenyl)-3H-1,4-benzodiazepine | NC1=NC2=C(C(=NC1)C1=CC(=CC=C1)F)C=CC(=C2)SCC | C17H16FN3S
reactant | ethyl propiolate | C(C#C)(=O)OCC | C5H6O2
solvent | ethanol | C(C)O | C2H6O
product | 10-ethylthio-7-(m-fluorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | C(C)SC1=CC2=C(C(=NCC=3N2C=CC(N3)=O)C3=CC(=CC=C3)F)C=C1 | C20H16FN3OS
